US09193669B2
A mixture of tert-butyl (3-(3-(cyclohexylmethylamino)phenyl)oxiran-2-yl)methylcarbamate, HCOOH.Et3N complex (5:2), Pd/C (10% wt) in absolute EtOH is degassed by applying vacuum/argon 3 times. The reaction mixture is stirred at room temperature until no starting material is seen by TLC, then concentrated under reduced pressure. Purification by flash chromatography (EtOAc—hexanes gradient) gives tert-butyl 3-(3-(cyclohexylmethylamino)phenyl)-2-hydroxypropylcarbamate.

reactant | tert-butyl (3-(3-(cyclohexylmethylamino)phenyl)oxiran-2-yl)methylcarbamate | C1(CCCCC1)CNC=1C=C(C=CC1)C1C(O1)CNC(OC(C)(C)C)=O | C21H32N2O3
solvent | HCOOH | C(=O)O | CH2O2
product | tert-butyl 3-(3-(cyclohexylmethylamino)phenyl)-2-hydroxypropylcarbamate | C1(CCCCC1)CNC=1C=C(C=CC1)CC(CNC(OC(C)(C)C)=O)O | C21H34N2O3
